Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fall; left basal ganglia IPH
 
Major Surgical or Invasive Procedure:
None. 

 
History of Present Illness:
___ is a pleasant ___ hx of Afib on Coumadin who
presents as transfer from OSH s/p fall down 5 stairs with
headstrike and LOC found to have multiple facial fractures and
IPH. He was reversed with Vit K and 1 unit FFP at OSH; INR was
1.4. He was then transferred to ___ for further neurosurgical
management. He was admitted to the ___ for close monitoring. 

                   

    

 
Past Medical History:
PMHx: 
Afib, HTN, HL, COPD, prior stroke with residual R facial 
weakness

PSHx:  
unknown 
 
Social History:
___
Family History:
Family Hx: non-contributory.

 

 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
Physical Exam:
T 98.3, HR 72, BP 140/70, RR 16, 95% RA 

GCS at the scene: 15
GCS upon Neurosurgery Evaluation: 15

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [ ]3 Opens eyes to voice
 [x]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [x]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:
Gen: NAD, resting comfortable with C-collar in place
HEENT: R eyebrow with laceration, R periorbital edema and
ecchymosis
Neck: C-collar in place
Extrem: warm and well perfused, no edema. C/o R hip pain on
palpation

Neuro:
Mental Status: Awake, alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech is fluent with good comprehension. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 2.5-2mm
bilaterally, brisk. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Slight R droop, sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift.

Sensation: Intact to light touch.

PHYSICAL EXAMINATION ON DISCHARGE:
Alert and oriented x3. Speech fluent and clear. Comprehension 
intact.
PERRL 3-2mm bilaterally. Right orbital edema and ecchymosis. 
CN II-XII grossly intact.
Motor examination ___ throughout all four extremities.
Sensation intact in all four extremities. 

 
Pertinent Results:
Please see OMR for pertinent lab and imaging results. 
 
Brief Hospital Course:
The patient was admitted to the ___ with a left IPH on the day 
of admission, ___ for close neurologic monitoring. 

#IPH:
The patient was admitted on ___ with a left basal ganglia IPH. 
The appearance of the hemorrhage was not typical for trauma, 
differential etiology includes hypertensive hemorrhage versus 
cavernoma versus ischemic stroke with hemorrhagic conversion. A 
MRI/A was performed which showed abnormal enhancement or 
vascular malformation. He will follow-up in 1-month for a repeat 
MRI/A. The Stroke Neurology team was consulted who will see the 
patient in follow-up in 2-weeks from the date of discharge. 
During his hospital stay he remained neurologically intact on 
examination. He was transferred from the ___ to the 
Neuroscience floor during his hospitalization. He was evaluated 
by the Physical Therapy service and was cleared for a discharge 
to home. 

# Facial fractures, right eyebrow laceration:
The patient was evaluated by the Plastic Surgery service and it 
was determined he was not a surgical candidate. He was started 
on a three day course of Bacitracin. He will follow-up with the 
Plastic Surgery service in ___ weeks from the date of discharge. 
 

#Right orbital fracture:
The patient was evaluated by Ophthalmology on ___ and was 
noted to have a normal eye exam given the right orbital 
fracture. The patient will follow-up with the Plastic Surgery 
service in ___ weeks from the date of discharge. 

#Right Hip pain:
The patient reported right-sided hip pain upon admission. He 
underwent a Right Hip x-ray which was negative for fracture. 

#Atrial Fibrillation:
The patient has Afib at baseline. The Coumadin was held in the 
setting of the IPH. He remained rate controlled during this 
hospitalization. Diltiazem was continued throughout his 
hospitalization. The patient will follow-up with his 
cardiologist, ___, MD in 2-weeks. He will remain off 
of the Coumadin until seen in follow-up. 

#Hypertension:
The patient was continued on his home antihypertensive 
medications Lisinopril and Hydrochlorothiazide and his blood 
pressure remained controlled throughout his hospitalization. 

#Dispo planning:
The patient was evaluated by physical therapy and occupational 
therapy and was cleared for a discharge to home. 

 
Medications on Admission:
Coumadin, diltiazem ER 240mg daily, lisinopril 10mg daily, 
simvastatin 10mg daily, HCTZ 25mg daily
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild  
2.  Diltiazem Extended-Release 240 mg PO DAILY  
3.  Hydrochlorothiazide 25 mg PO DAILY  
4.  Lisinopril 10 mg PO DAILY  
5.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left Intraparenchymal Hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Brain Hemorrhage without Surgery

Activity:
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications:
•Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Wound Care Instructions:
•Avoid sun exposure, use SPF-30 or higher lotion if exposed to 
sun for the next year.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit.
•Nausea and/or vomiting.
•Extreme sleepiness and not being able to stay awake.
•Severe headaches not relieved by pain relievers.
•Seizures.
•Any new problems with your vision or ability to speak.
•Weakness or changes in sensation in your face, arms, or leg.

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg.
•Sudden confusion or trouble speaking or understanding.
•Sudden trouble walking, dizziness, or loss of balance or 
coordination.
•Sudden severe headaches with no known reason.

 
Followup Instructions:
___